US05885999
d) N-[2-(Piperazin-1-yl)phenylmethyl]methanesulfonamide Hydrochloride
Methanolic hydrogen chloride (4M, 2.5 mL) was added to a stirred, cooled (0° C.) suspension of N-[2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethyl]methanesulfonamide (330 mg, 0.89 mmol) in methanol (1 mL) and the mixture was stirred at room temperature for 4 h. The solvent was evaporated under reduced pressure to give the title compound as an off-white solid (269 mg, 99%), δH (360 MHz, d6 -DMSO) 9.15 (2H, br s), 7.44 (1H, d, J 7.6 Hz), 7.42 (1H, br t, J 5.6 Hz), 7.31 (1H, t, J 7.6 Hz), 7.16 (2H, m), 4.22 (2H, d, J 5.6 Hz), 3.23 (4H, m), 3.06 (4H, m), and 2.92 (3H, s). m/e (ES+) 270 (MH+).

reactant | hydrogen chloride | 4M, 2.5 mL | Cl | ClH
reactant | N-[2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethyl]methanesulfonamide | 0.89 mmol, 330 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNS(=O)(=O)C | C17H27N3O4S
solvent | methanol | 1 mL | CO | CH4O
product | N-[2-(Piperazin-1-yl)phenylmethyl]methanesulfonamide Hydrochloride | 269 mg, 99% | Cl.N1(CCNCC1)C1=C(C=CC=C1)CNS(=O)(=O)C | InChI=1S/C12H19N3O2S.ClH/c1-18(16,17)14-10-11-4-2-3-5-12(11)15-8-6-13-7-9-15;/h2-5,13-14H,6-10H2,1H3;1H
